US08003677B2
1b: Ethyl 2-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]-thiazole-5-carboxylate
2-Trifluoromethylbenzoyl chloride (50.4 mg, 0.24 mmol) was added at RT to ethyl 2-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)thiazole-5-carboxylate; trifluoroacetic acid salt (60 mg, 0.16 mmol) and triethylamine (64 μl, 0.46 mmol) in 4 ml of methylene chloride and 2 ml of pyridine. After 3 h at RT, the mixture was concentrated, water and ethyl acetate were added, and the organic phase was removed, concentrated by evaporation and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 63 mg (91%), M+H+: 438.04.

reactant | 2-Trifluoromethylbenzoyl chloride | 0.24 mmol, 50.4 mg | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | ethyl 2-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)thiazole-5-carboxylate | C1N(CC2=C1CNC2)C=2SC(=CN2)C(=O)OCC | C12H15N3O2S
reactant | trifluoroacetic acid | 0.16 mmol, 60 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 0.46 mmol, 64 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]-thiazole-5-carboxylate | FC(C1=C(C(=O)N2CC3=C(C2)CN(C3)C=3SC(=CN3)C(=O)OCC)C=CC=C1)(F)F | C20H18F3N3O3S
